US07304037B2
II.2.g Ethyl 3-{[(allyloxy)-carbonyl]-amino}-3-{{3-{[(3-{[(propylamino)-carbonyl]-amino}-phenyl)-sulfonyl]-amino}-phenyl}}-propanoate
9.6 g of propyl isocyanate were added to a solution of 50 g of enantiopure ethyl 3-{[(allyloxy)-carbonyl]-amino}-3-{{3-{[(3-aminophenyl)-sulfonyl]-amino}-phenyl}}-propanoate from fraction 1 from Example II.2.f in 500 ml of dioxane, and the mixture was stirred for 18 h at 50° C. After evaporation of the solvent, 1.5 L of 1 M hydrochloric acid were added, and the solution was extracted with dichloromethane. The organic phase was dried over magnesium sulphate and concentrated. Chromatography on silica gel (dichloromethane/methanol=30:1) yielded 19.1 g of the compound.

reactant | propyl isocyanate | 9.6 g | C(CC)N=C=O | C4H7NO
reactant | ethyl 3-{[(allyloxy)-carbonyl]-amino}-3-{{3-{[(3-aminophenyl)-sulfonyl]-amino}-phenyl}}-propanoate | 50 g | C(C=C)OC(=O)NC(CC(=O)OCC)C1=CC(=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)N | C21H25N3O6S
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | Ethyl 3-{[(allyloxy)-carbonyl]-amino}-3-{{3-{[(3-{[(propylamino)-carbonyl]-amino}-phenyl)-sulfonyl]-amino}-phenyl}}-propanoate | 19.1 g | C(C=C)OC(=O)NC(CC(=O)OCC)C1=CC(=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)NC(=O)NCCC | C25H32N4O7S
